US07572820B2
1,1-Dimethylethyl [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetate
Synthesized as described in Example 4 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 1,1-dimethylethyl bromoacetate: MS (ES) m/z 325 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 1,1-dimethylethyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | 1,1-Dimethylethyl [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetate | C(#N)C=1C(=C2C=CN(C2=CC1)CC(=O)OC(C)(C)C)C(F)(F)F | C16H15F3N2O2
